US08686022B2
(S)-1-methyl-7-[4-(pyrrolidine-3-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
220 mg tert-butyl (S)-3-{4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carbonyl}-pyrrolidine-1-carboxylate are dissolved in 5 ml dichloromethane, combined with 231 μl trifluoroacetic acid and stirred for 12 hours at ambient temperature. Then the solvents are eliminated in vacuo, divided between saturated aqueous sodium hydrogen carbonate solution and dichloromethane and stirred vigorously for 30 minutes. The phases are separated, the aqueous phase is extracted twice with dichloromethane and the combined organic phases are dried on magnesium sulphate. Then the solvents are eliminated in vacuo and the crude product is chromatographed on silica gel (dichloromethane/(methanol-conc. ammonia 9:1) 90:10 to 80:20).

reactant | tert-butyl (S)-3-{4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carbonyl}-pyrrolidine-1-carboxylate | 220 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C)OC)NS(=O)(=O)C | C37H52N6O7S
reactant | trifluoroacetic acid | 231 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-1-methyl-7-[4-(pyrrolidine-3-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@@H]1CNCC1)C)OC)NS(=O)(=O)C | C32H44N6O5S
